US07816531B2
Synthesis of 1,3-bis(3-(2-pyridyl)phenyl)propan-2-ol
1.64 g (5.4 mmol) of tri-o-tolylphosphine and subsequently 202 mg (0.9 mmol) of palladium(II) acetate were added to a vigorously stirred, degassed suspension of 33.3 g (90 mmol) of 1,3-bis(3-bromophenyl)propan-2-ol, 51.3 g (250 mmol) of pinacolyl-2-pyridylboronate and 40.3 g (380 mmol) of sodium carbonate in a mixture of 500 ml of diethoxyethane, 250 ml of ethanol and 350 ml of water. After the reaction mixture had been heated under reflux for 16 h, the aqueous phase was separated off, and the organic phase was washed with 500 ml of saturated sodium chloride solution and subsequently evaporated to dryness. The oily residue was recrystallised from toluene/acetonitrile, giving 26.0 g (71 mmol) of the product, having a purity of 98% according to 1H-NMR, corresponding to a yield of 78.8% of theory, in the form of colourless crystals.

reactant | 1,3-bis(3-bromophenyl)propan-2-ol | 90 mmol, 33.3 g | BrC=1C=C(C=CC1)CC(CC1=CC(=CC=C1)Br)O | C15H14Br2O
reactant | pinacolyl-2-pyridylboronate | 250 mmol, 51.3 g | C(C)(C(C)(C)C)OB([O-])C1=NC=CC=C1
reactant | sodium carbonate | 380 mmol, 40.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 250 ml | C(C)O | C2H6O
solvent | diethoxyethane | 500 ml | C(C)OC(C)OCC | C6H14O2
catalyst | palladium(II) acetate | 0.9 mmol, 202 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-o-tolylphosphine | 5.4 mmol, 1.64 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | water | 350 ml | O | H2O
product | 1,3-bis(3-(2-pyridyl)phenyl)propan-2-ol | 71 mmol, 26.0 g, yield of 78.8% | N1=C(C=CC=C1)C=1C=C(C=CC1)CC(CC1=CC(=CC=C1)C1=NC=CC=C1)O | C25H22N2O
